US08067621B2
Step 3: 4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene
Methanesulfonic acid 3-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylamino]-propyl ester (0.28 g, 0.57 mmol) was dissolved in 25 ml of tetrahydrofuran then 1 M potassium tert-butoxide solution (2.40 ml, 2.40 mmol) was added. The reaction was stirred at room temperature for 3.5 h. The reaction was quenched with 50 ml of water and washed with 50 ml of ethyl acetate. The organic layer was dried over Na2SO4 and concentrated. The product was purified by prep TLC (EtOAc/Hex. 50/50). Yield: 140 mg, 60%. 1H NMR (CDCl3 400 MHz) δ 7.60 (d, J=8.1 Hz, 2H), 7.49 (d, J=8.8 Hz, 2H), 7.08 (td, J=9.5, 4.4 Hz, 1H), 6.47-6.40 (m, 1H), 5.21 (dd, J=11.8, 2.2 Hz, 1H), 4.33 (d, J=11.8 Hz, 1H), 3.70 (s, 1H), 3.00 (d, J=13.2 Hz, 1H), 2.76 (td, J=12.4 Hz, 2.9 Hz, 1H), 2.68 (d, J=13.2 Hz, 1H), 2.17 (tt, J=13.2, 2.9 Hz 1H), 1.66-1.44 (m, 2H), 1.21-1.07 (m, 1H).

reactant | Methanesulfonic acid 3-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylamino]-propyl ester | 0.57 mmol, 0.28 g | ClC1=CC=C(C=C1)S(=O)(=O)C1C(COC2=C(C=CC(=C12)F)F)NCCCOS(=O)(=O)C | C19H20ClF2NO6S2
reactant | potassium tert-butoxide | 2.40 mmol, 1 M, 2.40 ml | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene | ClC1=CC=C(C=C1)S(=O)(=O)C12CCCNC2COC2=C(C=CC(=C12)F)F | C18H16ClF2NO3S
